US08461164B2
{2-[4-(tert-Butyldimethylsilanyloxy)-phenyl]-ethyl}-pteridin-4-yl-amine (10.15 g, 3.0 mmol) was dissolved in dry DMF (50 mL), treated with di-tert-butyldicarbonate (730 mg, 3.3 mmol) plus approximately DMAP(N,N-dimethyl-4-aminopyridine; 25 mg) and stirred at 25° C. for 22 h. The mixture was diluted with H2O and extracted with EtOAc. The EtOAc extracts were washed with H2O, dried (Na2SO4), suction filtered and concentrated in vacuo to give {2-[4-(tert-butyldimethylsilanyloxy)-phenyl]-ethyl}-pteridin-4-yl-carbamic acid tert-butyl ester (1.2 g; 83%), as a yellow gum; ESIMS m/z 482 ([M+H]+).

reactant | {2-[4-(tert-Butyldimethylsilanyloxy)-phenyl]-ethyl}-pteridin-4-yl-amine | 3.0 mmol, 10.15 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCNC1=NC=NC2=NC=CN=C12 | C20H27N5OSi
reactant | di-tert-butyldicarbonate | 3.3 mmol, 730 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | H2O | O | H2O
product | {2-[4-(tert-butyldimethylsilanyloxy)-phenyl]-ethyl}-pteridin-4-yl-carbamic acid tert-butyl ester | 1.2 g, 83% | C(C)(C)(C)OC(N(C1=NC=NC2=NC=CN=C12)CCC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C25H35N5O3Si
